US09376442B2
4-[2-(Cyclopropylmethoxy)-4-fluorophenyl]-N-[(3R)-1-(hydroxyacetyl)pyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-N-[(3R)-pyrrolidin-3-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f9) and commercially available 2-chloro-2-oxoethyl acetate the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-N-[(3R)-pyrrolidin-3-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=CC(=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CNCC2
reactant | 2-chloro-2-oxoethyl acetate | C(C)(=O)OCC(=O)Cl | C4H5ClO3
product | 4-[2-(Cyclopropylmethoxy)-4-fluorophenyl]-N-[(3R)-1-(hydroxyacetyl)pyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=CC(=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CN(CC2)C(CO)=O | C24H26FN5O4
